US06949542B2
4-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-{3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example M151) (245 mg, 0.44 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (101 mg, 52%).

reactant | [2-{3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 0.44 mmol, 245 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O)=O | C28H28F3N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-7-(2,2,2-trifluoro-ethoxy)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | COC1=CC=C(C=N1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=CC(=C2)OCC(F)(F)F | C23H18F3N3O3
